Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
pollen
 
Attending: ___.
 
Chief Complaint:
recurrent SBO

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a pleasant ___ w/ stage IV sigmoid
adenocarcinoma s/p LAR (___) with subsequent POD involving
spleen s/p splenectomy/distal pancreatectomy/wedge
gastrectomy (___), w/ POD despite multiple regimens
(Irinotecan ___, course c/b DVT and recurrent malignant SBO
s/p venting G-tube ___, now on hospice, who p/w anorexia,
abdominal and lower back pain for several days. He states he has
a lot of gas, passing it, no bm x 2 days. Denied F/C/N/V. He
states this pain is different than prior in that it involves his
lower back. Pain is constant. Feels very fatigued. 

In the ED, VSS. Noted to be uncomfortable w/ TTP in LUQ/LLQ. CT
revealed slight worsening of his SBO and slight worsening of
severe R hydroureteronephrosis due to malignant obstruction.
Surgery was consulted but because patient is on hospice, they
deferred any interventions and advised OMED admission. He
received 2 mg IV hydromorphone x 2 and LR and zofran and
admitted. 

REVIEW OF SYSTEMS:
12 point ROS reviewed in detail and negative except for what is
mentioned above in HPI

 
Past Medical History:
PAST ONCOLOGIC HISTORY (per OMR):
Colon cancer stage IIIC (T3N2M0) of the sigmoid colon with
progressive metastatic disease, KRAS mutated, MSI intact
- ___ Colonscopy for weight loss of 26 lbs in a year
revealed a fungating, circumferential mass of malignant
appearance was found in the sigmoid colon at 18cm. Biopsy
consistent with adenocarcinoma. CT torso revealed 3.7 cm segment
of the mid sigmoid colon demonstrating circumferential wall
thickening in keeping with tumor. There is no associated bowel
obstruction at present time. Adjacent mesenteric lymph nodes
measuring up to 6 mm in short axis dimension are noted. No
evidence of metastatic disease within the chest, abdomen, or
pelvis. 
- ___ MR pelvis revealed Ill-defined sigmoid mass,
approximately 15 cm above the anal verge, as seen on the CT
examination from ___, with extension across the
muscularis propria. This is suspicious for T3 disease. 1.6 x 1.5
cm mass abutting the anterior aspect of the rectum and posterior
aspect of the seminal vesicles, 7 cm above the anal verge, is
suspicious for a drop metastasis as it is not convincingly
arising from rectal wall. This likely corresponds to the 
palpable
finding on physical exam. Intrapelvic lymphadenopathy adjacent 
to
the sigmoid mass, some with morphology suspicious for tumor
involvement. 
- ___ Undderwent LAR. Path revealed colonic 
adenocarcinoma
in the resected rectosigmoid colon.  Tumor size was 3.6cm, low
grade, staged pT3.  Margins were negative.  Of the 15 nodes
examined, 6 were positive, thus staged pN2a. Finally, a separate
nodule of adenocarcinoma was identified 9 cm distal to the
primary tumor involving pericolonic adipose tissue, serosa, and
muscularis propria, consistent with metastasis of the primary
tumor.  Furthermore, the resected peritoneal nodule showed
metastatic adenocarcinoma with perineural invasion.  Thus, this
was staged pM1b.  Of note, KRAS mutation was detected.  
- ___ to ___ admitted for abdominal pain, OSH CT
was reviewed here and felt to be not concerning for any acute
intra-abdominal process including leak or abcess however there
was a high stool burden and gas.  Pt discharged on bowel 
regimen.
- ___ ED visit for abdominal pain, KUB reassuring,
discharged after bowel regimen
- ___ C1D1 XELOX (Xeloda 1000mg BID)
- ___ to ___ Admission for n/v and abd pain. CT
showed mildly dilated  stomach and proximal small bowel, but no
evidence of obstruction. He underwent NGT decompression with 
good
bilious output and improvement in symptoms and was slowly
advanced to regular diet. 
- ___ C1D1 XELOX (Xeloda 1000mg BID)
- ___ to ___ admission for abd pain and
constipation. CT showed multiple mildly distended loops of ileum
with fecalized  contents and a narrow caliber of the terminal
ileum.  Stool and  air seen in the colon.  Symptoms improved 
with
aggressive bowel regimen.
- ___ C3D1 XELOX (Xeloda 1500mg BID)
- ___ C4D1 XELOX (Xeloda 1500mg BID)
- ___ C5D1 XELOX (Xeloda 2000mg BID)
- ___ C6D1 XELOX (Xeloda 2000mg BID)
- ___ C7D1 XELOX (Xeloda 2000mg BID)
- ___ CT torso with no evidence of recurrence or
metastases
- ___ colonoscopy showed multiple tiny 2 mm polypoid
lesions which showed to be lymphoid aggregates on path 
- ___ CT torso with no evidence of recurrence or
metastases
- ___ CT abdomen in the ED for abdominal pain showed ___
- ___ CT abdomen in the ED for abdominal pain showed ___
but indeterminate liver lesion
- ___ CT torso ___ with stable liver lesion
- ___ Colonoscopy revealed a single polyp, pathology
consistent with adenoma. 
- ___ CT torso showed a new lesion in the splenic hilum
concerning for recurrence
- ___ PET CT showed avid lesion in the spleen, no other
sites of disease
- ___ Splenectomy revealed metastatic colon cancer
- ___ CT torso showed ___
- ___ CT torso extensive recurrence in the spenic bed and
nodes, CEA rising
- ___ Biopsy of the splenic bed confirmed metastatic
adenocarcinoma
- ___ CT torso showed increase in metastatic disease
- ___ CT torso showed increase in metastatic and
concerning new areas in the liver
- ___ Admitted with malignant SBO
- ___ C1D1 FOLFOX6
- ___ C1D15 FOLFOX (oxaliplatin at 65 ___
neuropathy)
- ___ C2D1 FOLFOX (oxaliplatin at 65 ___ neuropathy
- ___ CT torso shows stable disease
- ___ Treatment delayed per patient preference
- ___ C3D1 FOLFOX (oxaliplatin at 65 ___ 
neuropathy)
- ___ Patient requested to defer dose, CEA rising
- ___ C1D1 Irinotecan
- ___ Admitted with recurrent malignant SBO
- ___ C2D1 Irinotecan
- ___ Admit for recurrent SBO, concern for ___
diverticulitis
- ___ Readmitted for recurrent SBO
- ___ C3D1 Irinotecan (150 ___ diarrhea)
- ___ C4D1 Irinotecan (150 ___ diarrhea)
- ___ Treatment held ___ fatigue
- ___ C1D1 Weekly irinotecan 100 mg/m2 1, 8, 15 and 22 of
a 42-day cycle
- ___ Prolonged hospitalization for SBO

PAST MEDICAL HISTORY (per OMR):
Metastatic colon cancer
Malignant bowel obstruction
Hydronephrosis
DVT 

 
Social History:
___
Family History:
Negative for colon cancer, inflammatory bowel disease, uterine 
cancer. He does have history of lipomas in his family.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITAL SIGNS: 98.3 PO 129 / 83 58 18 100 Ra
General: Frail, cachectic, lethargic, in fetal position covered
in blankets, uncomfortable
HEENT:  MMM
CV:  RR, NL S1S2 no S3S4 No MRG
PULM:  CTAB, No C/W/R, No respiratory distress
ABD:  BS+ slightly tympanic but certainly present in all four
quadrants, soft, not distended, + lower quadrant pain, no
peritoneal signs, + gastrostomy in place w/o erythema or pain
around the tube
LIMBS: WWP, no ___, no tremors
SKIN:  No notable rashes on trunk nor extremities
NEURO: Generalized weakness
PSYCH: Thought process logical, linear, future oriented
ACCESS: Chest port site intact w/o overlying erythema, accessed
and dressing C/D/I 

DISCHARGE PHYSICAL EXAM:
___ 0706 Temp: 98.1 PO BP: 138/97 HR: 68 RR: 20 O2 sat: 98%
O2 delivery: RA 
GENERAL: Cachectic and chronically ill but pleasant man sitting
on bed in no distress
HEENT:  MMM, OP clear
CV:  RR, NL S1S2 no S3S4 No MRG
PULM:  CTAB, No respiratory distress
ABD:  Soft BS, not distended, soft, mild lower quadrant
pain with palpation but no rebound, + gastrostomy in place w/o
erythema or drainage about site
LIMBS: WWP, no ___, no tremors
SKIN:  No notable rashes on trunk nor extremities
NEURO: Alert and oriented. Fair attention. Moves all exremities
equally. 
PSYCH: Reserved affect. Engages appropriately with examiner. 
Thought process is linear
ACCESS: Chest port site intact w/o overlying erythema, accessed
and dressing C/D/I 

 
Pertinent Results:
ADMISSION LABS:
===============

___ 10:40PM BLOOD WBC-6.9 RBC-2.95* Hgb-7.7* Hct-25.2* 
MCV-85 MCH-26.1 MCHC-30.6* RDW-16.1* RDWSD-49.9* Plt ___
___ 10:40PM BLOOD Glucose-110* UreaN-18 Creat-1.0 Na-137 
K-4.2 Cl-97 HCO3-29 AnGap-11
___ 10:40PM BLOOD Albumin-3.3*
___ 10:40PM BLOOD Lactate-0.7

DISCHARGE LABS:
===============

___ 06:00AM BLOOD WBC-6.2 RBC-3.12* Hgb-8.2* Hct-25.9* 
MCV-83 MCH-26.3 MCHC-31.7* RDW-15.7* RDWSD-47.4* Plt ___
___ 06:00AM BLOOD Glucose-139* UreaN-11 Creat-1.0 Na-137 
K-4.0 Cl-99 HCO3-26 AnGap-12

MICRO:
======
___: Urine Cx - <10K CFU

IMAGING:
========
___BD & PELVIS WITH CO  
1. Slight interval worsening of high-grade small bowel
obstruction measuring up to 5.4 cm, previously up to 4.9 cm, 
with
transition point at the known mid abdominal mesenteric 
metastatic
lesion. There is marked mural thickening of the small bowel near
the mesenteric metastatic implant, although no perforation or
convincing evidence of mesenteric ischemia is identified. 
2. Patient is status post gastrostomy tube placement, of which
the location appears grossly within the remaining stomach but is
difficult to clearly discern due to marked decompression of the
remaining stomach. If indicated, enteric contrast via G-tube may
be administered to assess for intragastric placement. 
3. Grossly similar metastatic disease burden within the
limitations of paucity of intra-abdominal fat and small bowel
distension. 
4. Slight interval worsening of severe right
hydroureteronephrosis due to malignant obstruction. 

 
Brief Hospital Course:
Mr. ___ is a ___ w/ stage IV sigmoid adenocarcinoma s/p LAR 
(___) with subsequent POD involving spleen s/p 
splenectomy/distal pancreatectomy/wedge gastrectomy (___), w/ 
disease progresion despite multiple regimens (most recent 
Irinotecan ___, course c/b DVT and recurrent malignant SBO 
s/p venting G-tube ___, recently started on hospice, who was 
admitted with anorexia, weakness, abdominal and lower back pain 
for several days. 

CT imaging shows progression of known high grade small bowel 
obstruction and right sided malignant hydronephrosis. He was 
started on dilaudid PCA, octreotide SC, and dexamethasone with 
good improvement. G-tube is now clamped and he is tolerating 
liquid diet with BM and flatus. 

Symptoms have been generally well controlled, but have required 
frequent escalation in PCA dosing. After extensive disucssions 
with patient we feel continuing parenteral opioids and 
maximizing patient's support services will be best option for 
patient moving forward, and he is agreeable to continue with 
hospice services. Patient will be discharged to ___ 
___ Home this afternoon. 

# Recurrent malignant SBO
# CRC
On admission CT scan confirmed persistence of high grade bowel 
obstruction. G-tube was vented and patient was made NPO with 
IVF. He was placed on dilaudid PCA along with SC octreotide 
100mcg bid and 4mg daily dex with good improvement in symptoms. 
G-tube clamped and he is now tolerating diet. Current dilaudid 
PCA 1.5mg basal/hour with 1mg IV bolus and 10 minute lockout. 
Max 5mg per hour. Plan to continue dex; holding octreotide on 
discharge. Patient may adjust diet as tolerated at hospice house 
and vent g-tube as needed. 

# Neoplastic Pain
Was on MS ___ 200mg q8h with PO dilaudid 8mg q4h as  needed 
for breakthrough pain. However w/ SBO, absorption and ability to 
tolerate PO erratic. Doing well on PCA, as above and will 
attempt to maximize his support and pain control, as above.

# DVT: Held apixaban as NPO, and bridged w/ enoxaparin 100mg
daily. Will DC with apixaban, but may need to readdress long 
term need for this medication.

# HTN: Held home amlodipine. BP's were actually mildly elevated 
in house. Will DC with this medication, but again, may readdress 
need for it as needed.

# BILLING: >30 minutes spent coordinating this discharge plan
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Docusate Sodium 100 mg PO BID 
2. Apixaban 5 mg PO BID 
3. Polyethylene Glycol 17 g PO DAILY 
4. Ondansetron 8 mg PO Q8H:PRN nausea 
5. Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - Second 
Line 
6. TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
7. amLODIPine 5 mg PO DAILY 
8. Senna 17.2 mg PO BID 
9. Morphine SR (MS ___ 200 mg PO Q8H 
10. HYDROmorphone (Dilaudid) 4 mg PO Q4H:PRN Pain - Moderate 
11. Bisacodyl ___AILY:PRN Constipation - Second Line 

 
Discharge Medications:
1.  Dexamethasone 4 mg PO DAILY  
2.  HYDROmorphone (Dilaudid) 2 mg IV Q3H:PRN Pain - Severe  
3.  HYDROmorphone (Dilaudid) 1 mg IVPCA Lockout Interval: 10 
minutes  Basal Rate: 1.5 mg(s)/hour 1-hr Max Limit: 5 mg(s) 
Start: Today - ___ @ 1300  
4.  amLODIPine 5 mg PO DAILY  
5.  Apixaban 5 mg PO BID  
6.  Docusate Sodium 100 mg PO BID  
7.  Ondansetron 8 mg PO Q8H:PRN nausea  
8.  Polyethylene Glycol 17 g PO DAILY  
9.  Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - Second 
Line  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
# Encounter for palliative care
# Malignant small bowel obstruction
# Metastatic colon cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___. You were admitted with weakness and pain due to 
your bowel obstruction. We started you on IV pain medications 
and you felt better. After discussion with you and your hospice 
team, we believe a residential hospice house will be able to 
provide you the best combination of symptom control and support 
during this time. We have arranged for you to be admitted into 
the ___ House, and they will continue to 
closely monitor and control your symptoms.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___